US05223539
N-cyclohexyl-4-[(3-methoxyphenoxy)methyl]-N-methylbenzamide
The reaction and workup were carried out in the same manner as for Example 21 using K2CO3 (674 mg, 4.88 mmol), 4-bromomethylbenzoic acid N-methyl-N-cyclohexyl amide (629 mg, 2.03 mmol) and 3-methoxyphenol (251 mg, 2.02 mmol). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 90.38° C. (DSC).

reactant | K2CO3 | 4.88 mmol, 674 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromomethylbenzoic acid N-methyl-N-cyclohexyl amide | 2.03 mmol, 629 mg | CN(C(C1=CC=C(C=C1)CBr)=O)C1CCCCC1 | C15H20BrNO
reactant | 3-methoxyphenol | 2.02 mmol, 251 mg | COC=1C=C(C=CC1)O | C7H8O2
product | N-cyclohexyl-4-[(3-methoxyphenoxy)methyl]-N-methylbenzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)COC1=CC(=CC=C1)OC)=O)C | C22H27NO3
